US05811459
A mixture of ethyl N1-methyl-2-[2-(2-benzyloxyphenyl)-ethyl]pyrimidin-6(1 H)-one-5-carboxylate (0.5 g) and para-toluene sulphonic acid (30 mg) in methanol was heated under reflux for 18 hours, 150 mg of para-toluene sulphonic acid was added and the mixture heated under reflux for a further 24 hours. The solvent was evaporated to give methyl N1-methyl-2-[2-(2-benzyloxyphenyl)ethyl]-pyrimidin-6(1 H)-one-5-carboxylate (410 mg).

reactant | ethyl N1-methyl-2-[2-(2-benzyloxyphenyl)-ethyl]pyrimidin-6(1 H)-one-5-carboxylate | 0.5 g | CN1C(=NC=C(C1=O)C(=O)OCC)CCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C23H24N2O4
reactant | para-toluene sulphonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | para-toluene sulphonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | methyl N1-methyl-2-[2-(2-benzyloxyphenyl)ethyl]-pyrimidin-6(1 H)-one-5-carboxylate | 410 mg | CN1C(=NC=C(C1=O)C(=O)OC)CCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C22H22N2O4
